US04548952
32 g (0.072 moles) of benzyl 2-[(2,6-dichlorophenyl)amino]phenylacetoxyacetate prepared above were dissolved in 1000 ml of acetic acid, and the resulting mixture was mixed with 5 g of Pd/C 10% and then hydrogenated at a pressure of 3 atmospheres under heating to a temperature of 40° C. for a period of 10 hours. The catalyst was filtered, and the resulting solution was concentrated and then washed with toluene to remove acetic acid. The product was then recrystallized from cyclohexane, thus obtaining 13 g (50%) of 2-[(2,6-dichlorophenyl)amino]phenylacetoxyacetic acid, in the form of white crystals having a melting point of 149°-150° C., Rf=0.51 (acetone 100/acetic acid 2.5). Spectral data and elemental analysis of the product were as follows.

reactant | benzyl 2-[(2,6-dichlorophenyl)amino]phenylacetoxyacetate | 0.072 moles, 32 g | ClC1=C(C(=CC=C1)Cl)NC(C(=O)OCC1=CC=CC=C1)OC(CC1=CC=CC=C1)=O | C23H19Cl2NO4
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 2-[(2,6-dichlorophenyl)amino]phenylacetoxyacetic acid | 13 g, 50% | ClC1=C(C(=CC=C1)Cl)NC(C(=O)O)OC(CC1=CC=CC=C1)=O | C16H13Cl2NO4
